US09387200B2
d) 7-Hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
To a solution of 3-bromomethyl-7-(2,2-dimethyl-propionyloxy)-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester (86.1 mg) in DMF (0.85 mL) at 0° C. was added indole (39.9 mg) and 60% NaH (13.6 mg). The reaction mixture was allowed to warm up to r.t. and stirred for 2 h before water (20 mL) was added. The mixture was extracted with EtOAc (4×20 mL). The combined organic phases were washed with brine and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel. Eluting with 1-50% EtOAc/hexanes gave the title compound (11 mg) as a white solid: MS (m/z) 458.2 (M+1).

reactant | 3-bromomethyl-7-(2,2-dimethyl-propionyloxy)-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 86.1 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)CBr)OC(C(C)(C)C)=O | C23H25BrN2O4S
reactant | indole | 39.9 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | NaH | 13.6 mg | [H-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | DMF | 0.85 mL | CN(C)C=O | C3H7NO
product | 7-Hydroxy-3-indol-1-ylmethyl-4-phenyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 11 mg | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=CC=CC=C1)C(=NS2)CN2C=CC1=CC=CC=C21)O | C26H23N3O3S
